US09216988B2
To a solution of N-[[2-fluoro-4-(4-piperidyl)phenyl]methyl]-1-phenyl-N-(2,2,2-trifluoroethyl)methanesulfonamide hydrochloride (100 mg, 0.21 mmol) and N,N-diisopropylethylamine (0.11 mL, 0.62 mmol) in dichloromethane (1.5 mL) was added acetyl chloride (24 mg, 0.31 mmol) and the reaction was stirred at ambient temperature for 2 hours. The reaction was then concentrated and purified by preparative reverse phase HPLC to yield 33.3 mg of N-[4-(1-Acetyl-piperidin-4-yl)-2-fluoro-benzyl]-C-phenyl-N-(2,2,2-trifluoro-ethyl)-methanesulfonamide. 1H NMR (400 MHz, DMSO) δ 7.44-7.38 (m, 5H), 7.38-7.32 (m, 1H), 7.14-7.04 (m, 2H), 4.60 (s, 2H), 4.56-4.47 (m, 1H), 4.41 (s, 2H), 4.07-3.83 (m, 3H), 3.16-3.04 (m, 1H), 2.87-2.74 (m, 1H), 2.63-2.51 (m, 1H), 2.01 (s, 3H), 1.86-1.68 (m, 2H), 1.67-1.49 (m, 1H), 1.49-1.29 (m, 1H). LCMS (m/z) ES+ 487.1 [M+1]+.

reactant | N-[[2-fluoro-4-(4-piperidyl)phenyl]methyl]-1-phenyl-N-(2,2,2-trifluoroethyl)methanesulfonamide hydrochloride | 0.21 mmol, 100 mg | Cl.FC1=C(C=CC(=C1)C1CCNCC1)CN(S(=O)(=O)CC1=CC=CC=C1)CC(F)(F)F
reactant | N,N-diisopropylethylamine | 0.62 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.31 mmol, 24 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-[4-(1-Acetyl-piperidin-4-yl)-2-fluoro-benzyl]-C-phenyl-N-(2,2,2-trifluoro-ethyl)-methanesulfonamide | 33.3 mg | C(C)(=O)N1CCC(CC1)C1=CC(=C(CN(S(=O)(=O)CC2=CC=CC=C2)CC(F)(F)F)C=C1)F | C23H26F4N2O3S
